US06054470
To a stirred suspension of 4-methyl-3-nitro-2-pyridone (2.0 g, 13 mmol) in DMF (60 mL) was added NaH (60% suspension in oil, 0.52 g). After 1 hour, 4-methoxybenzyl chloride (1.8 mL) was added, and the mixture was stirred at rt overnight. Ethyl acetate was added, and the organic phase was washed with water, dried, filtered and evaporated. Chromatography of the residue over silica gel (ethyl acetate/hexane) gave 1-(4-methoxybenzyl)-4-methyl-3-nitro-2-pyridone (2.0 g, 7.3 mmol, 56%).

reactant | 4-methyl-3-nitro-2-pyridone | 13 mmol, 2.0 g | CC1=C(C(NC=C1)=O)[N+](=O)[O-] | C6H6N2O3
reactant | NaH | 0.52 g | [H-].[Na+]
reactant | 4-methoxybenzyl chloride | 1.8 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 1-(4-methoxybenzyl)-4-methyl-3-nitro-2-pyridone | 7.3 mmol, 2.0 g, 56% | COC1=CC=C(CN2C(C(=C(C=C2)C)[N+](=O)[O-])=O)C=C1 | C14H14N2O4
